### ISSUE TITLE
`subst` can't find an equation for a variable

### ISSUE THREAD

**Issue by fpfu** [leanprover/lean4#1169]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Steps to Reproduce

```lean
inductive Foo (n: Nat)
| mk: n = 0 → Foo n

example (h: Foo x): x + 1 = 1 := by
  cases h
  subst x
  rfl
```

**Expected behavior:** example should work

**Actual behavior:** get an error:

```
tactic 'subst' failed, did not find equation for eliminating 'x'
case mk
x : Nat
: x = 0
⊢ x + 1 = 1
```

**Reproduces how often:** 100%

### Versions

`nightly-2022-05-26`
